US08664258B2
Preparation of tert-butyl {2-[4-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}amino)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]ethyl}carbamate
N,N′-Disuccinimidyl carbonate (462 mg, 1.2 eq) was dissolved in 30 mL dimethylformamide and cooled to 0° C. To this was added the tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate (500 mg, 1.81 mmol) dissolved in 10 mL dimethylformamide, drop-wise over 30 mins. The solution was removed from the ice bath and stirred at room temperature for 2 hr, then moved to an oil bath and stirred at 65° C. for 30 minutes. It was then removed from heating and allowed to cool to room temperature. It was used in the following step without purification. LCMS ink (%)=474 (M+H, 100).

reactant | N,N′-Disuccinimidyl carbonate | 462 mg, 1.2 eq | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | tert-butyl 2-(4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethylcarbamate | 1.81 mmol, 500 mg | NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C17H24N4O3
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl {2-[4-({[(2,5-dioxopyrrolidin-1-yl)oxy]carbonyl}amino)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]ethyl}carbamate | O=C1N(C(CC1)=O)OC(=O)NC1=CC(=C(OCCNC(OC(C)(C)C)=O)C=C1)C1=CC=NN1C | C22H27N5O7
